US08030337B2
2-Methyl-6,7-dihydro-8H-indeno[5,4-d][1,3]thiazol-8-one
6-Amino-7-iodoindan-1-one (1.00 g, 3.66 mmol), thioacetamide (413 mg, 5.49 mmol), 1,1′-bis(diphenylphosphino)ferrocene (383 mg, 1.46 mmol), calcium oxide (411 mg, 7.32 mmol) and tris(dibenzylideneacetone)dipalladium(0) (335 mg, 0.37 mmol) were dissolved in N,N-dimethylformamide (12 mL), and the mixture was stirred at 60° C. for 1 hr. After allowing to cool to room temperature, water was added to the reaction solution. The mixture was extracted with ethyl acetate and washed with saturated brine. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=25/75→65/35), and then purified by silica gel column chromatography (NH, ethyl acetate/hexane=10/90→40/60) to give the title compound (340 mg, yield 46%).

reactant | 6-Amino-7-iodoindan-1-one | 3.66 mmol, 1.00 g | NC1=CC=C2CCC(C2=C1I)=O | C9H8INO
reactant | thioacetamide | 5.49 mmol, 413 mg | C(C)(=S)N | C2H5NS
reactant | calcium oxide | 7.32 mmol, 411 mg | [O-2].[Ca+2]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 1.46 mmol, 383 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.37 mmol, 335 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-Methyl-6,7-dihydro-8H-indeno[5,4-d][1,3]thiazol-8-one | 340 mg, yield 46% | CC=1SC2=C(N1)C=CC=1CCC(C12)=O | C11H9NOS
